US08530468B2
Triethylamine (0.147 mL, 1.05 mmol) was added to a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine (0.100 g, 0.655 mmol) and di-tert-butyl dicarbonate (0.215 g, 0.983 mmol) in dichloromethane (3 mL) and the mixture was stirred at room temperature for 16 hours. The solution was washed with aqueous 0.2 M HCl and the aqueous layer was extracted with dichloromethane. The combined organic layers were dried (Na2SO4) and concentrated. Purification by column chromatography gave tert-butyl 5-chloro-1H-pyrrolo[2,3-c]pyridine-1-carboxylate (0.164 g, 0.649 mmol, 99%). LC-MS (3) Rt=2.70 min; m/z (ESI+) 197 & 199 ((M+H-tBu)+H).

reactant | Triethylamine | 1.05 mmol, 0.147 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine | 0.655 mmol, 0.100 g | ClC=1C=C2C(=CN1)NC=C2 | C7H5ClN2
reactant | di-tert-butyl dicarbonate | 0.983 mmol, 0.215 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | tert-butyl 5-chloro-1H-pyrrolo[2,3-c]pyridine-1-carboxylate | 0.649 mmol, 0.164 g, 99% | ClC=1C=C2C(=CN1)N(C=C2)C(=O)OC(C)(C)C | C12H13ClN2O2
